US05821330
Asn:
1.1 (1), Glu:2.0 (2), Ser:2.3 (2), Gly:4.4 (4), Thr:1.0 (1),

reactant | Glu | N[C@@H](CCC(O)=O)C(=O)O | C5H9NO4
reactant | Gly | NCC(=O)O | C2H5NO2
reactant | Thr | N[C@@H]([C@H](O)C)C(=O)O | C4H9NO3
product | Asn | N[C@@H](CC(N)=O)C(=O)O | C4H8N2O3
